US07737166B2
7-Fluoro-5-methyl-2-[methyl(pyridin-2-yl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-189)
Diisopropylethylamine (169 μl, 0.944 mmol) and 2-(methylamino)pyridine (102 μl, 0.994 mmol) were added to a dichloromethane (10 ml) solution of 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile (I-130) (190 mg, 0.663 mmol), followed by heating under reflux in an oil bath at 50° C. for 3 hours. The reaction liquid was cooled to room, temperature, ethyl acetate (70 ml) was added, followed by washing with water (50 ml) and saturated brine (50 ml). After drying over anhydrous sodium sulfate and concentration under reduced pressure, the resulting residue was purified by silica gel column chromatography (eluent, hexane:ethyl acetate=4:1) to obtain the entitled compound (137 mg, 57.5%) as a colorless solid.

reactant | Diisopropylethylamine | 0.944 mmol, 169 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(methylamino)pyridine | 0.994 mmol, 102 μl | CNC1=NC=CC=C1 | C6H8N2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 2-chloro-7-fluoro-5-methyl-6-phenyl-1,3-benzoxazole-4-cabonitrile | 0.663 mmol, 190 mg | ClC=1OC=2C(N1)=C(C(=C(C2F)C2=CC=CC=C2)C)C#N | C15H8ClFN2O
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | 7-Fluoro-5-methyl-2-[methyl(pyridin-2-yl)amino]-6-phenyl-1,3-benzoxazole-4-carbonitrile | 137 mg, 57.5% | FC=1C(=C(C(=C2N=C(OC21)N(C2=NC=CC=C2)C)C#N)C)C2=CC=CC=C2 | C21H15FN4O
